US05145869
To a solution of methyl 5-(3,4-dichlorophenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoate (40.3 g) in ethanol (500 ml) was added a 2N sodium hydroxide solution (40 ml). After stirring at room temperature for 16 hours, the reaction mixture was concentrated in vacuo, acidified with a dilute hydrochloric acid, and extracted with chloroform. The organic layer was washed with water, dried over MgSO4, and evaporated at reduced pressure. The residue was recrystallized from diethyl ether-hexane to give 38.2 g of 5-(3,4-dichlorophenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoic acid.

reactant | methyl 5-(3,4-dichlorophenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoate | 40.3 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)CC(CCC(=O)OC)C(N(CCCCC)CCCCC)=O | C23H35Cl2NO5S
reactant | sodium hydroxide | 2N, 40 ml | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 5-(3,4-dichlorophenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoic acid | 38.2 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)CC(CCC(=O)O)C(N(CCCCC)CCCCC)=O | C22H33Cl2NO5S
